Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Aspirin / Codeine / NSAIDS (Non-Steroidal Anti-Inflammatory 
Drug) / morphine / prochlorperazine / coconut oil / coconut
 
Attending: ___
 
Chief Complaint:
Back and abdominal pain

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ yo woman with PMH chronic pain, multiple
abdominal surgeries including gastric bypass, and 
nephrolithiasis
presenting with exacerbation of flank/abdominal pain in the
setting of known ureteral stone. 
___ with a history of DVT/PE, chronic pain, multiple abdominal
surgeries including gastric bypass, presenting for continued 
back
and abdominal pain.

Patient reports 4 weeks of worsened back and abdominal pain, 
with
the last week being "just miserable". She notes that she does 
not
have dysuria but does have worsened back pain with urination. 
She
denies f/c or n/v/d, but does have intermittent hematuria as 
well
as urinary urgency and hesitancy. She also feels that her back
pain is worse with movement, limiting her ability to do her 
usual
___. She finds that nothing is really making it better. The pain
has impacted her appetite, leading to reduced PO intake and
significant weight loss. 

The patient has been diagnosed with kidney stones, with ___ CTU
showing non-obstructing renal pelvis stone. She has had urology
follow-up with cystoscopy on ___, showing no concerning 
lesions,
and was tx with Flomax and fluids. Most recently saw PCP ___ 
___,
who felt that left renal pelvic stone did not appear to be
passing in spite of medical treatment with tamsulosin, hydration
and pain control, at which point dilaudid Rx was increased and
PCP contacted urology.  Urology recommended repeat CTU, which
patient has not yet scheduled. Back/flank pain and hematuria 
have
continued for past 2 weeks, also with urinary frequency.
Decreased PO intake and sleep; some nausea without vomiting. No
fevers/chills, dysuria, diarrhea, BRBPR. 

In ED, initial vitals 97.6 91 134/81 18 100% RA 
Labs notable for grossly positive UA, WBC 3.1 with normal diff, 
K
5.5-5.8 (hemolyzed) with resolution to 3.8. Received 20mg
methadone x2, CTX 1mg, Flomax 0.4mg, 1g APAP, 2mg IV dilaudid 
Vitals on transfer 98.0 80 145/75 18 99% RA 
 
On arrival to floor, patient reports ___ pain. 

ROS: Positive as per HPI, all systems reviewed and otherwise
negative

 
Past Medical History:
R knee menisectomy ___
DVT/PE
DMII- resolved with weight loss after gastric bypass
asthma-resolved with weight loss after gastric bypass 
CVA ___ with residual left facial droop
myelopathy
obesity s/p gastric bypass
severe gastritis/esophagitis w/odynophagia
recurrent esophageal candidiasis,
multiple abdominal surgeries for "stomach leak"
s/p CCY
SBO
Hernia
PUD
GERD
macrocytic anemia
h/o MRSA
osteoarthritis
narcotic abuse
arthroplasty 
HTN
Hepatitis C- cleared 
nephrolithiasis 
thyromegaly
 
Social History:
___
Family History:
Mother with diabetes and HTN
Brother with CHF

 
Physical Exam:
ADMISSION EXAM:
VS:  98.3 145/88 60 18 97%RA 
General: Well appearing woman sitting up in bed in NAD
Eyes: PERLL, EOMI, sclera anicteric
ENT: MMM, oropharynx clear without exudate or lesions 
Respiratory: CTAB without crackles, wheeze, rhonchi. 
Cardiovascular: RRR, normal S1 and S2, no murmurs, rubs or
gallops
Gastrointestinal: Soft, nontender, nondistended, +BS, no masses
or HSM; no CVA tenderness 
Extremities: Warm and well perfused, no peripheral edema 
Skin: warm, no rashes/no jaundice/no skin ulcerations noted
Neurological: Alert and oriented x3, motor and sensory exam
grossly intact 

DISCHARGE EXAM:
VS:  98.3PO 103 / 67 63 18 99 Ra 
General: Well appearing woman sitting up in bed in NAD
Eyes: PERLL, EOMI, sclera anicteric
ENT: MMM, oropharynx clear without exudate or lesions 
Respiratory: CTAB without crackles, wheeze, rhonchi. 
Cardiovascular: RRR, normal S1 and S2, no murmurs, rubs or
gallops
Gastrointestinal: Soft, nontender, nondistended, +BS, no masses
or HSM
Back: TTP in L flank
Extremities: Warm and well perfused, no peripheral edema 
Skin: warm, no rashes/no jaundice/no skin ulcerations noted
Neurological: Alert and oriented x3, motor and sensory exam
grossly intact 

 
Pertinent Results:
ADMISSION LABS:
___ 01:20PM URINE  MUCOUS-FEW
___ 01:20PM URINE  AMORPH-RARE
___ 01:20PM URINE  RBC-6* WBC-116* BACTERIA-FEW YEAST-NONE 
EPI-<1
___ 01:20PM URINE  BLOOD-TR NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-TR BILIRUBIN-NEG UROBILNGN-4* PH-6.0 LEUK-LG
___ 01:20PM URINE  COLOR-Yellow APPEAR-Hazy SP ___
___ 02:30PM   NEUTS-65.1 ___ MONOS-6.4 EOS-0.0* 
BASOS-0.3 IM ___ AbsNeut-2.03# AbsLymp-0.87* AbsMono-0.20 
AbsEos-0.00* AbsBaso-0.01
___ 02:30PM   WBC-3.1*# RBC-3.86* HGB-11.5 HCT-36.6 MCV-95 
MCH-29.8 MCHC-31.4* RDW-14.8 RDWSD-51.1*
___ 02:30PM   GLUCOSE-84 UREA N-9 CREAT-0.9 SODIUM-138 
POTASSIUM-5.5* CHLORIDE-102 TOTAL CO2-22 ANION GAP-20
___ 02:33PM   LACTATE-1.2 K+-5.8*
___ 04:11PM   K+-3.8

Micro:
___ Ucx, Bcx x2 pnd

IMAGING: 
___ CT A/P w/o con
1. 5 mm calculus in the left renal pelvis is unchanged as
compared to CT
abdomen and pelvis ___. No evidence of hydronephrosis or
hydroureter.
2. No acute abnormality in the abdomen or pelvis.
3. Status post Roux-en-Y gastric bypass and mild dilatation of
the
jejunojejunostomy anastomosis is unchanged dating back to CT
abdomen pelvis
___.

ECG: NSR rate 59, possible old lateral infarct, otherwise normal
ECG; unchanged from prior ___. Qtc 445. 

DISCHARGE LABS:
___ 06:15AM BLOOD WBC-3.5* RBC-3.54* Hgb-10.3* Hct-33.2* 
MCV-94 MCH-29.1 MCHC-31.0* RDW-14.7 RDWSD-50.4* Plt ___
___ 02:30PM BLOOD Neuts-65.1 ___ Monos-6.4 Eos-0.0* 
Baso-0.3 Im ___ AbsNeut-2.03# AbsLymp-0.87* AbsMono-0.20 
AbsEos-0.00* AbsBaso-0.01
___ 06:15AM BLOOD Calcium-8.8 Phos-4.8* Mg-1.___ yo woman with PMH chronic pain, multiple abdominal surgeries
including gastric bypass, and nephrolithiasis presenting with
exacerbation of flank/abdominal pain in the setting of known
ureteral stone. 

#UTI/abdominal pain/back pain/nephrolithiasis/chronic
pain/narcotic abuse: 
  Patient has a history and multiple abdominal surgeries and 
chronic pain, but pain has been exacerbated over the last 4 
weeks in the setting of previously diagnosed nonobstructive 
ureteral stone. Conservative management with pain management and 
Flomax has not been effective in passing the stone and she is 
still c/o L flank pain.  Per Urology, may consider lithotripsy 
in the near future if pt still symptomatic after UTI treatment.  

   Her Urine culture returned with 2 types of pan-sensitive 
e.coli.  She was treated with CTX with resolution of lower 
abdominal pain and dysuria.  She will complete 7 day course of 
abx with Bactrim on discharge. (Pt also given script for 1 dose 
of flucazole as she states she always gets yeast infections on 
abx and was c/o some recurrent urgency.)
  Of note, patient has a hx of narcotic abuse, is on a narcotic 
contract as an outpatient, and has multiple safety alerts in POE 
for misuse of narcotic medications including possible 
in-hospital overdose, so care was taken to limit increases in 
opioid medications. She was started on home dilaudid on 
admission but dose was inadvertently increased to ___ prn as 
it was thought that PCP had increased dilaudid dose to up to 4mg 
prn (but on review of OMR, it appears that he had only filled 
chronic 2mg script 1 week early).  Discussed with Dr. ___ 
___ is for patient to fill her monthly script on discharge 
(180# 2mg tabs prescribed to start on ___ and to call clinic if 
she runs out early b/c she has been taking 4mg prn instead of 
2mg.  She was also continued on home tizanidine and gabapentin. 

#History of gastric bypass:  Continued ursodiol, cholestyramine, 
Zofran.  Continued home vitamin D, vitamin B12, vitamin C, MVI

#History of DVT/PE/Stroke:  Continued home rivaroxaban

#Depression/anxiety:  Continued bupropion, doxepin, clonazepam, 
quetiapine

#GERD: Continued ranitidine, pantoprazole

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ascorbic Acid ___ mg PO DAILY 
2. BuPROPion (Sustained Release) 150 mg PO BID 
3. ClonazePAM 1 mg PO QAM 
4. Cyanocobalamin 100 mcg PO DAILY 
5. Doxepin HCl 100 mg PO HS 
6. Methadone 20 mg PO TID 
7. Pantoprazole 40 mg PO Q12H 
8. QUEtiapine Fumarate 75 mg PO QHS 
9. Ranitidine 150 mg PO DAILY 
10. Thiamine 100 mg PO DAILY 
11. Ursodiol 500 mg PO BID 
12. Milk of Magnesia 30 mL PO DAILY:PRN constipation 
13. Ondansetron 4 mg PO Q8H:PRN nausea 
14. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
15. Vitamin D 1000 UNIT PO DAILY 
16. Acetaminophen 1000 mg PO Q8H 
17. Docusate Sodium 100 mg PO BID 
18. Gabapentin 200 mg PO TID 
19. HYDROmorphone (Dilaudid) 2 mg PO Q4H:PRN Pain - Severe 
  Reason for PRN duplicate override: adjusting dose
20. ClonazePAM 0.5 mg PO QPM 
21. Cholestyramine 4 gm PO DAILY 
22. FoLIC Acid 1 mg PO DAILY 
23. Rivaroxaban 20 mg PO DAILY 
24. Tamsulosin 0.4 mg PO DAILY 
25. Tizanidine 2 mg PO Q8H:PRN knee spasm 
26. Multivitamins W/minerals 1 TAB PO DAILY 
27. Senna 8.6 mg PO BID 

 
Discharge Medications:
1.  Fluconazole 150 mg PO ONCE Duration: 1 Dose 
RX *fluconazole [Diflucan] 150 mg 1 tablet(s) by mouth once Disp 
#*1 Tablet Refills:*0 
2.  Sulfameth/Trimethoprim DS 1 TAB PO BID Duration: 3 Days 
RX *sulfamethoxazole-trimethoprim [Bactrim DS] 800 mg-160 mg 1 
tablet(s) by mouth twice per day Disp #*6 Tablet Refills:*0 
3.  HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN Pain - Severe  
4.  Acetaminophen 1000 mg PO Q8H  
5.  Ascorbic Acid ___ mg PO DAILY  
6.  BuPROPion (Sustained Release) 150 mg PO BID  
7.  Cholestyramine 4 gm PO DAILY  
8.  ClonazePAM 1 mg PO QAM  
9.  ClonazePAM 0.5 mg PO QPM  
10.  Cyanocobalamin 100 mcg PO DAILY  
11.  Docusate Sodium 100 mg PO BID  
12.  Doxepin HCl 100 mg PO HS  
13.  FoLIC Acid 1 mg PO DAILY  
14.  Gabapentin 200 mg PO TID  
15.  Methadone 20 mg PO TID  
16.  Milk of Magnesia 30 mL PO DAILY:PRN constipation  
17.  Multivitamins W/minerals 1 TAB PO DAILY  
18.  Ondansetron 4 mg PO Q8H:PRN nausea  
19.  Pantoprazole 40 mg PO Q12H  
20.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
21.  QUEtiapine Fumarate 75 mg PO QHS  
22.  Ranitidine 150 mg PO DAILY  
23.  Rivaroxaban 20 mg PO DAILY  
24.  Senna 8.6 mg PO BID  
25.  Tamsulosin 0.4 mg PO DAILY  
26.  Thiamine 100 mg PO DAILY  
27.  Tizanidine 2 mg PO Q8H:PRN knee spasm  
28.  Ursodiol 500 mg PO BID  
29.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
1.  UTI
2.  Kidney stone
3.  Chronic abdominal pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted for flank pain and frequent urination.  You 
also have a known kidney stone and you were seen by the urology 
service.  We found that you had a UTI, and have put you on 
antibiotoics.  You will followup with urology regarding 
treatment of the stone.  
 
Followup Instructions:
___